US05648372
3-Nitro-4-chloropyridine hydrochloride (2038 mg) was dissolved in ethanol (42 ml), and sodium hydrogensulfide (2148 mg) was added to the solution, followed by stirring for 40 minutes at room temperature. An aqueous solution of sodium hydrosulfite (6.67 g) was added to this reaction mixture, and the resultant mixture was heated and stirred at 80° C. for 12 hours. After insoluble matter was separated by filtration, the solution was concentrated. The concentrate was dissolved in methanol-water, and the solution was mixed with silica gel and dried under reduced pressure. Thereafter, elution was conducted with 5:1 chloroform-methanol and then 1:1 chloroform-methanol, thereby obtaining 3-amino-4-mercaptopyridine (892 mg). To this product, 7 ml of ethyl acetate and molecular sieve 4Å were added, and the resultant mixture was heated and refluxed for 20 minutes in a nitrogen atmosphere. The reaction mixture was dried under reduced pressure and dissolved in methanol. The solution was caused to be adsorbed on silica gel. This solution was eluted with 50:1 chloroform-methanol, thereby obtaining 590 mg of 2-methyl-5-azabenzothiazole. The intended compound was obtained in accordance with the same procedure as that described in Example 131 except that the above-described 2-methyl-5-azabenzothiazole was used in place of 2-methyl-6-chlorobenzothiazole. Physical properties of this compound are described below.

reactant | 3-Nitro-4-chloropyridine hydrochloride | 2038 mg | Cl.[N+](=O)([O-])C=1C=NC=CC1Cl
reactant | sodium hydrogensulfide | 2148 mg | S.[Na]
reactant | sodium hydrosulfite | 6.67 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | ethanol | 42 ml | C(C)O | C2H6O
product | 2-methyl-5-azabenzothiazole | 590 mg | CC=1SC2=C(N1)C=NC=C2 | C7H6N2S
